US07034039B2
Tert-butyl[6-benzyloxy-4-(4-chlorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.54 g, 1 mmol) was suspended in 48% aqueous solution (20 ml) of hydrogen bromide and the obtained mixture was refluxed under heating for 3 h. The reaction mixture was neutralized with 1N sodium hydroxide aqueous solution and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in tetrahydrofuran (10 ml) and di-t-butyl dicarbonate (0.28 ml, 1 mmol) was added thereto. The obtained mixture was stirred at room temperature for 1 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give tert-butyl[4-(4-chlorophenyl)-6-hydroxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.32 g, 71.1%) as crystals.

reactant | Tert-butyl[6-benzyloxy-4-(4-chlorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 1 mmol, 0.54 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=C(C=C1)Cl)OCC1=CC=CC=C1)=O)CC(C)C)=O | C32H35ClN2O4
reactant | hydrogen bromide | Br | BrH
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | di-t-butyl dicarbonate | 1 mmol, 0.28 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | O | H2O
product | tert-butyl[4-(4-chlorophenyl)-6-hydroxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.32 g, 71.1% | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=C(C=C1)Cl)O)=O)CC(C)C)=O | C25H29ClN2O4
